US07262182B2
3-[[2-[[Bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester, 400 mg (0.8 mmol), was dissolved in 4 mL anhydrous tetrahydrofuran, and 550 μL (3.2 mmol) diisopropylethylamine added, followed by methanesulfonyl chloride, 181 mg (1.6 mmol). The reaction mixture was purged with argon and stirred overnight. After adding a further 275 μL (1.6 mmol) diisopropylethylamine, then tris(2-aminoethyl)amine-polystyrene resin, 480 mg (1.6 mmol), the mixture was agitated for 6 hours, then filtered and the filtrate evaporated to dryness under vacuum, giving N-(methanesulfonyl)-3-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester, 397 mg. Purity was verified with ELSD and identity verified with 1H and 31P NMR.

reactant | 3-[[2-[[Bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester | COC([C@@H](N)CSCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl)=O | C14H28Cl4N3O4PS
reactant | diisopropylethylamine | 3.2 mmol, 550 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 1.6 mmol, 275 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-(methanesulfonyl)-3-[[2-[[bis[bis(2-chloroethyl)amino]phosphinyl]oxy]ethyl]thio]-L-alanine methyl ester | COC([C@@H](NS(=O)(=O)C)CSCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl)=O | C15H30Cl4N3O6PS2
